US06852738B2
Ethyl 4-[(acetylamino)methyl]cyclohexanecarboxylate (29):
trans 4-(Aminomethyl)cyclohexane carboxylic acid ethyl ester (CAS 35879-53-9) (222 mg, 1.0 mmole, 1.0 eq) was dissolved in dichloromethane (5 mL) and triethyl amine (0.35 mL, 2.5 mmole, 2.5 eq) and acetic anhydride (143 μL, 1.50 mmole, 1.5 eq) was added. The reaction was stirred overnight and was complete in 18 hours. The reaction was diluted with dichloromethane and washed twice with dilute aqueous hydrochloric acid. The organic was dried over sodium sulfate, filtered and evaporated to give the title compound in quantitative yield. 1H NMR (500 MHz, DMSO-d6): δ 7.76 (s, 1H), 4.01 (q, 2H), 2.85 (t, 2H), 2.17 (m, 1H), 1.86 (m, 2H), 1.77 (s, 3H), 1.69 (m, 2H), 1.24 (m, 3H), 1.13 (t, 3H), 0.88 (m, 2H). N-{[4-(hydroxymethyl)cyclohexyl]methyl}acetamide (30): Ester (29) (220 mg, 0.97 mmole, 1.0 eq) was dissolved in tetrahydrofuran, then lithium aluminum hydride (81 mg, 2.14 mmole, 2.2 eq) was added and the reaction stirred. This was worked up after 90 minutes by quenching via simultaneous addition of water and 2N sodium hydroxide. The aqueous mixture was extracted with ethyl acetate to give the alcohol title compound in 87% yield. 1H NMR (500 MHz, DMSO-d6): δ 7.74 (s, 1H), 4.31 (t, 1H), 3.17 (t, 2H), 2.84 (t, 2H), 1.77 (s, 3H), 1.69 (m, 4H), 1.25 (m, 2H), 0.81 (m, 4H). N-{[4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclohexyl]methyl}acetamide (31): Primary alcohol (30) was treated with t-butyldimethysilyl chloride and triethylamine in dichloromethane to give title compound in similar fashion to procedure used to make (1). 1H NMR (500 MHz, DMSO-d6): δ 7.74 (s, 1H), 3.35 (d, 2H), 2.84 (t, 2H), 1.77 (s, 3H), 1.68 (m, 4H), 1.28 (m, 2H), 0.84 (m, 13H), 0.00 (s, 6H). N-{[4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclohexyl]methyl}-N-ethylamine (32): Intermediate (31) (50 mg, 168 mmole, 1.0 eq) was dissolved in tetrahydrofuran (0.5 mL) and lithium aluminum hydride (16.4 mg, 432 mmole, 2.6 eq) was added. Heated to reflux for 24 hours at which point reaction was complete. Cooled, quenched with saturated Rochelle's salt, extracted twice with ethyl acetate, dried, filtered and evaporated filtrate to give crude title compound. 1H NMR (500 MHz, DMSO-d6): δ 3.35 (d, 2H), 2.45 (m, 2H), 2.29 (d, 2H), 1.72 (m, 4H), 1.28 (m, 2H), 0.96 (t, 3H), 0.84 (m, 13H), 0.00 (s, 6H). N-{[4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclohexyl]methyl}-N-ethylsulfamide (33): Following the procedure to make (16), (32) was treated with sulfamide and DME at reflux overnight to give the title compound. 1H NMR (500 MHz, DMSO-d6): δ 6.55 (s, 2H), 3.38 (d, 2H), 3.04 (m, 2H), 2.77 (d, 2H), 1.72 (m, 4H), 1.44 (m, 1H), 1.32 (m, 1H), 1.06 (t, 3H), 0.84 (m, 13H), 0.00 (s, 6H). N-{[4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclohexyl]methyl}-N-ethylsulfamide (34): Following the procedure to make (17), intermediate (33) was used in place of (16) to give the title compound. 1H NMR (500 MHz, DMSO-d6): δ 8.53 (s, 2H), 8.42 (s, 1H), 3.35 (m, 4H), 3.15 (d, 2H), 1.70 (m, 4H), 1.51 (m, 1H), 1.32 (m, 1H), 1.08 (t, 3H), 0.83 (m, 13H), 0.00 (s, 6H). N′-[3,5-bis(trifluoromethyl)benzoyl]-N-ethyl-N-{[4-(hydroxymethyl)cyclohexyl]methyl}sulfamide (35): Following the procedure to make (4), intermediate (34) was substituted for (3) to give the title compound. 1H NMR (500 MHz, DMSO-d6): δ 8.43 (s, 2H), 8.09 (s, 1H), 4.28 (t, 1H), 3.15 (m, 4H), 2.91 (d, 2H), 1.74 (m, 4H), 1.43 (m, 1H), 1.24 (m, 1H), 1.02 (t, 3H), 0.78 (m, 4H). (4-{[({[3,5-bis(trifluoromethyl)benzoyl]amino}sulfonyl)(ethyl)amino]methyl}cyclohexyl)methyl phenylcarbamate (36): Alcohol (35) (11.6 mg, 24 mmole, 1.0 eq) was dissolved in dichloromethane followed by the addition of triethylamine (10 mL, 72 mmole, 3.0 eq) and phenyl isocyanate (2.8 mL, 26 mmole, 1.05 eq). Added additional triethylamine and phenylisocyanate to drive reaction to completion. Purified by silica gel chromatography to provide the title compound. 1H NMR (500 MHz, DMSO-d6): δ 12.39 (s, 1H), 9.55 (s, 1H), 8.54 (s, 2H), 8.39 (s, 1H), 7.43 (s, 2H), 7.24 (t, 2H), 6.95 (t, 1H), 3.88 (d, 2H), 3.35 (q, 2H), 3.19 (d, 2H), 1.77 (m, 4H), 1.57 (m, 2H), 1.09 (t, 3H), 0.92 (m, 4H).

reactant | trans 4-(Aminomethyl)cyclohexane carboxylic acid ethyl ester | 1.0 mmole, 222 mg, 1.0 eq | C(C)OC(=O)[C@@H]1CC[C@H](CC1)CN | C10H19NO2
reactant | triethyl amine | 2.5 mmole, 0.35 mL, 2.5 eq | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 1.50 mmole, 143 μL, 1.5 eq | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | Ethyl 4-[(acetylamino)methyl]cyclohexanecarboxylate | quantitative yield | C(C)(=O)NCC1CCC(CC1)C(=O)OCC | C12H21NO3
